US07727988B2
5-(2-thienyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride (E8)
A mixture of (1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane (Prep4, 40 mg), 1-(3-chloropropyl)-5-(2-thienyl)-2,4(1H,3H)-pyrimidinedione (Prep15, 57 mg), NaI catalytic amount and TEA (0.050 mL) in DMF (0.5 mL) was heated at 100° C. for 24 hours. Aqueous saturated NH4Cl solution was then added to the mixture and then it was extracted with DCM. The organic phases were dried and concentrated in vacuo. The crude product was purified by a SCX cartridge and then by preparative HPLC [(column: XTerra Prep MS C18 30×150 mm, 10 uM; mobile phase A: H2O+0.1% formic acid, mobile phase B: acetonitrile+0.1% formic acid, gradient: from 1 to 25% (B) in 10 min, from 25 to 90% in 4.50 min, from 90 to 100% in 0.50 min; flow rate: 40 mL/min; UV wavelength range: 210-400 nm, ionization: ES+ and ES−; mass range: 150-900 amu (ES+)], to give 52 mg of the title compound as free base. HCl (1M in diethyl ether) was added to a solution of the free base in dichloromethane. The mixture was evaporated and the residue triturated with diethyl ether to give the title compound (40 mg).

reactant | (1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane | 40 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | 1-(3-chloropropyl)-5-(2-thienyl)-2,4(1H,3H)-pyrimidinedione | 57 mg | ClCCCN1C(NC(C(=C1)C=1SC=CC1)=O)=O | C11H11ClN2O2S
reactant | NaI | [Na+].[I-]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 5-(2-thienyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride | 52 mg | Cl.S1C(=CC=C1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C23H22F3N3O2S.ClH/c24-23(25,26)16-6-4-15(5-7-16)22-11-17(22)12-28(14-22)8-2-9-29-13-18(19-3-1-10-32-19)20(30)27-21(29)31;/h1,3-7,10,13,17H,2,8-9,11-12,14H2,(H,27,30,31);1H/t17-,22+;/m0./s1
